US06552067B2
Analogous to the procedure described for Example 1B, Step A, tetrahydro-pyrrolizine-3,5-dione (650 mg, 4.68 mmol) and 3-phenoxybenzyl chloride (1.20 g, 5.49 mmol) were reacted over 3.5 h to provide 5-[3-oxo-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one (924 mg). 1H NMR (CDCl3) δ7.30 ( m, 3H), 7.10 (m, 1H), 6.99 (m, 2H), 6.92-6.84 (m, 3H), 3.66 (s, 2H), 3.57 (m, 1H), 2.52 (t, 2H), 2.27 (m, 2H), 2.17 (m, 1H), 1.80-1.58 (m, 3H),

reactant | tetrahydro-pyrrolizine-3,5-dione | 4.68 mmol, 650 mg | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | 3-phenoxybenzyl chloride | 5.49 mmol, 1.20 g | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
product | 5-[3-oxo-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one | 924 mg | O=C(CCC1CCC(N1)=O)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C20H21NO3
